US03952001
A mixture of 4.83 g. 3-ethylsulphonyl-1,2,4-triazole, 6.0 g. N-n-pentyl-N-propylcarbamoyl chloride, 40 ml. dry tetrahydrofuran and 6 ml. dry triethylamine was refluxed under anhydrous conditions for 24 hours. The cooled reaction mixture was filtered. The filtrate was distilled under reduced pressure to give 1-(N-n-pentyl-N-propylcarbamoyl)-3-ethylsulphonyl-1,2,4-triazole as a residual oil, nD25 1.4967. (96.5% 1-isomer by GLC assay). Elemental analysis satisfactory.

reactant | 3-ethylsulphonyl-1,2,4-triazole | C(C)S(=O)(=O)C1=NNC=N1 | C4H7N3O2S
reactant | N-n-pentyl-N-propylcarbamoyl chloride | C(CCCC)N(C(=O)Cl)CCC | C9H18ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(N-n-pentyl-N-propylcarbamoyl)-3-ethylsulphonyl-1,2,4-triazole | C(CCCC)N(C(=O)N1N=C(N=C1)S(=O)(=O)CC)CCC | C13H24N4O3S
